US07459448B2
2-(3,4-Dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-27)
In a manner similar to that described for method I, 4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-c) and N-(3,4-dimethoxyphenyl)guanidine nitrate were converted to I-27 (58%): HRMS Calcd. for C20H18N4O3: 363.1457, Found 363.1441.

reactant | 4-dimethylaminomethylene-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | CN(C)C=C1C(C2=C(NC(C1)=O)C=CC=C2)=O | C13H14N2O2
reactant | N-(3,4-dimethoxyphenyl)guanidine nitrate | [N+](=O)(O)[O-].COC=1C=C(C=CC1OC)NC(=N)N
product | 2-(3,4-Dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC=C3)N1 | C20H18N4O3
